US09302989B2
N-(5-{[(3S)-tetrahydrofuran-3-ylmethyl]carbamoyl}pyridin-2-yl)-1,3-dihydro-2H-isoindole-2-carboxamide
The title compound was prepared as described in Example 1C, substituting (S)-benzyl (tetrahydrofuran-3-yl)methylcarbamate for 3-phenylpropan-1-amine and 6-(isoindoline-2-carboxamido)nicotinic acid for 4-(isoindoline-2-carboxamido)benzoic acid. 1H NMR (500 MHz, DMSO-d6) δ ppm 9.27 (s, 1H), 8.74 (d, J=2.1 Hz, 1H), 8.60 (t, J=5.7 Hz, 1H), 8.14 (dd, J=8.8, 2.4 Hz, 1H), 8.00 (d, J=8.7 Hz, 1H), 7.41-7.27 (m, 4H), 4.89 (m, 4H), 3.75 (m, 1H), 3.69 (m, 1H), 3.62 (m, 1H), 3.48 (dd, J=8.5, 5.3 Hz, 1H), 3.25 (m, 2H), 2.48 (m, 1H), 1.95 (m, 1H), 1.61 (m, 1H); MS (ESI(+)) m/e 367 (M+H).

reactant | 3-phenylpropan-1-amine | C1(=CC=CC=C1)CCCN | C9H13N
reactant | 6-(isoindoline-2-carboxamido)nicotinic acid | C1N(CC2=CC=CC=C12)C(=O)NC1=NC=C(C(=O)O)C=C1 | C15H13N3O3
reactant | 4-(isoindoline-2-carboxamido)benzoic acid | C1N(CC2=CC=CC=C12)C(=O)NC1=CC=C(C(=O)O)C=C1 | C16H14N2O3
product | N-(5-{[(3S)-tetrahydrofuran-3-ylmethyl]carbamoyl}pyridin-2-yl)-1,3-dihydro-2H-isoindole-2-carboxamide | O1C[C@@H](CC1)CNC(=O)C=1C=CC(=NC1)NC(=O)N1CC2=CC=CC=C2C1 | C20H22N4O3
